2132-08-22 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hypotensive overnight to SBP 70s.  Given 500 cc NS and 25 gm albumin
   with SBP to 110s.  Started on levofloxacin for presumed pneumonia.
   Weaned from NRB to room air.  Given kayexalate for K of 6.2.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-22**] 03:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-22**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 86 (70 - 89) bpm
   BP: 116/44(62) {78/42(51) - 125/79(85)} mmHg
   RR: 19 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                     19 mL
                                                                    924 mL
   PO:
           TF:
   IVF:
                                                                     19 mL
                                                                    674 mL
   Blood products:
   100 mL
   Total out:
                                                                      0 mL
                                                                    145 mL
   Urine:
   145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     19 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   Gen: Oriented x 1, at times following simple commands
   HEENT: dry MM
   Resp: LL rhonchorous, dullness to percussion in LLL
   CV: RRR nl s1 s2 [**12-26**] HSM
   Abd: Soft, NT/ND, no gross ascites
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   10.2 g/dL
   181 mg/dL
   2.2 mg/dL
   15 mEq/L
   6.6 mEq/L
   32 mg/dL
   114 mEq/L
   138 mEq/L
   31.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2132-8-21**]  10:55 PM
                             [**2132-8-22**]  04:45 AM
   WBC
   5.0
   4.5
   Hct
   33.0
   31.3
   Plt
   72
   70
   Cr
   2.1
   2.2
   TropT
   0.04
   Glucose
   163
   181
   Other labs: PT / PTT / INR:21.1/61.9/2.0, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:37/45, Alk Phos / T Bili:121/3.4,
   LDH:281 IU/L, Ca++:6.4 mg/dL, Mg++:1.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Hypotension: DDx includes pneumonia/infectious process versus
   liver failure versus hypovolemia.  Cardiogenic process less likely with
   negative cardiac markers and no ischemic changes on ECG.
   -          Continue levofloxacin for presumed pneumonia
   -          Follow culture data
   -          Fluids, preferably albumin for intravascular repletion if
   needed
   -          Formal ECHO in AM
   2)       Chest pain: Limited by history.  Pnuemonia (?retrocardiac
   opacity and possible pleurisy) versus PE.
   -          Continue levoflox
   -          PA/Lat film today if possible
   -          B/L LENIS given unable to do CTA due to renal failure
   3)       Acute renal failure: FENa is <1%.  Pre-renal azotemia
   possible, though not improving with hydration.  Hepatorenal syndrome on
   differential.
   -          Cont kayexalate until BM
   -          Check potassium following kayexalate
   4)       Cirrhosis:  Mental status improved per family.
   -          Continue lactulose, rifaximin
   -          Abdominal US
   -          Hepatology to see in AM
   5)       Coagulopathy: Stable.
   -          Vit K PO
   6)       Fluid overload: With elevated right sided pressures, though
   with good O2 sats.
   -       Would not diurese currently in setting of ARF and concern for
   hepatorenal sx, satting well on RA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-21**] 10:07 PM
   18 Gauge - [**2132-8-21**] 10:07 PM
   Prophylaxis:
   DVT:  heparin sq
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU service until further w/u and treatment

2132-08-22 11:11:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   woman with HCC cirhosis presents with a week of chest pain
   24 Hour Events:
 EKG - At [**2132-8-22**] 12:13 AM
 EKG - At [**2132-8-22**] 06:25 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-22**] 03:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-22**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 85 (70 - 95) bpm
   BP: 115/50(66) {78/42(51) - 125/79(85)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                     19 mL
                                                                    961 mL
   PO:
           TF:
   IVF:
                                                                     19 mL
                                                                    711 mL
   Blood products:
   100 mL
   Total out:
                                                                      0 mL
                                                                    213 mL
   Urine:
   213 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     19 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   70 K/uL
   181 mg/dL
   2.2 mg/dL
   15 mEq/L
   6.6 mEq/L
   32 mg/dL
   114 mEq/L
   138 mEq/L
   31.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2132-8-21**]  10:55 PM
                             [**2132-8-22**]  04:45 AM
   WBC
   5.0
   4.5
   Hct
   33.0
   31.3
   Plt
   72
   70
   Cr
   2.1
   2.2
   TropT
   0.04
   Glucose
   163
   181
   Other labs: PT / PTT / INR:21.1/61.9/2.0, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:37/45, Alk Phos / T Bili:121/3.4,
   LDH:281 IU/L, Ca++:6.4 mg/dL, Mg++:1.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   1) Hypotension
   2) Respiratory Distress
   3) Chest pain
   4) Acute renal failure
   5) Anemia
   6) Acidosis
   7) Coagulopathy
   8) Cirrhosis
   Story is not well delineated (not able to tell us about the quality of
   the pain). No fever and unimpressive WBC, but the physical exam is
   relatively localized at the left base. Taken with the CXR, patient may
   have a pneumonia at left base. Will place patient on levofloxacin.
   Chest pain may have represented pleurisy. An alternative dx could be
   pulmonary embolism (despite mild coagulopathy) with atelectasis. Will
   obtain LENI's in the AM. Cannot do CTA with acute renal failure.
   Oxygenation has improved (patient now with sats in the 95-97% range off
   of supplemental oxygen), but patient still tachypneic with use of
   accessory muscles of ventilation consistent with increased drive to
   breathe, perhaps related to stimulation of pulmonary receptors.
   No evidence of cardiac ischemia. With low voltage on ECG, will check
   echo in the AM for pericardial effusion. Character of pain not
   classical for pericarditis and ECG not  suggestive other than low
   voltage.
   Patient with non-gap acidosis.This may be due to loss of bicarb in
   stool with use of lactulose. Alternatively, patient may have renal
   tubular acidosis. Patient's tachypnea/hyperventilation appears largely
   due to compensation for the metabolic acidosis. Monitor bicarb.
   Consider replacement if it drops further.
   Etiology of acute renal failure unclear. Concern about hepato-renal
   syndrome. Check urine sediment and electrolytes. Would not diurese now
   with improved oxygenation.
   Mild coagulopathy due to liver failure. No evidence of bleeding now.
   Administer vitamin K.
   Cause of hypotension unclear. Possible cytokine release if pneumonia
   present; superimposed on liver failuire and typical shunting associated
   with that, patient could then have become hypotensive. BP has been
   stable since in ICU. Monitor without diuresis for now.
   Hct stable. Not at threshold for transfusion.
   Continue lactulose; mental status still depressed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-21**] 10:07 PM
   18 Gauge - [**2132-8-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2132-08-23 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2132-8-22**] 09:04 AM
   liver abdomen and both legs
   Cardiology c/s [**8-22**]: ECG c/w new ASMI since [**2132-2-18**], repeat ECHO,
   restart BB as tolerated, cautious fluid resus, if needed 75cc/hr, avoid
   if possible. Cardiomyopathy likely [**12-22**] PNA, may improve w/ treatment
   Nehprology c/s [**8-22**]: treat hyperkalemia, avoid diuretics and
   nephrotoxic meds, renal dose, low threshold for starting
   Midodrine/Octreotide. [**Doctor Last Name 2372**] IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-22**] 03:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-23**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-23**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 84 (80 - 95) bpm
   BP: 100/43(57) {96/43(57) - 119/65(78)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,140 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                  1,340 mL
                                                                     60 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                    332 mL
                                                                     70 mL
   Urine:
                                                                    332 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   Gen: Obtunded, not responsive to painful stimuli or voice, did not
   respond to her son
   [**Name (NI) 1824**]: dry MM, [**Name (NI) 2288**], no icterus, no injections
   Resp: Bronchial breath sounds at LLL, decreased breath sounds LLL
   CV: RRR nl s1 s2 [**1-24**] HSM, heard in axilla
   Abd: Soft, NT/ND, no gross ascites
   Peripheral Vascular: Radial pulses 2+, DP 2+
   Skin:  Dry, poor turgor, tenting
   Neurologic: Unresponsive, downward toes,  mild asterixis of wrist, [**12-23**]
   beat clonus of ankles
   Labs / Radiology
   46 K/uL
   8.8 g/dL
   181 mg/dL
   2.5 mg/dL
   16 mEq/L
   3.3 mEq/L
   33 mg/dL
   119 mEq/L
   147 mEq/L
   26.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2132-8-21**]  10:55 PM
                             [**2132-8-22**]  04:45 AM
                             [**2132-8-22**]  03:35 PM
                             [**2132-8-23**]  03:03 AM
                             [**2132-8-23**]  04:18 AM
   WBC
   5.0
   4.5
   3.9
   3.7
   Hct
   33.0
   31.3
   25.8
   26.2
   Plt
   72
   70
   52
   46
   Cr
   2.1
   2.2
   2.2
   2.4
   2.5
   TropT
   0.04
   Glucose
   163
   181
   163
   195
   181
   Other labs: PT / PTT / INR:25.8/150.0/2.5, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:26/27, Alk Phos / T Bili:91/4.3,
   Fibrinogen:66 mg/dL, Albumin:3.2 g/dL, LDH:201 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   FDP 0-10
   BCX: NGTD/Pending. Ucx pending, U legionella neg.
   CXR: Clear lung fields, L diaphragm not visible, ? retrocardiac process
   US RUQ: TIPS w/ normal flow, improving post ablation change to lesion
   in R lobe of liver
   US bil LE: No DVT
   ECHO: [**8-22**] NEW LV size and thickness normal, mild global [**Last Name (LF) 2373**], [**First Name3 (LF) **]
   = 40%. NEW RV mildly dilated w/ global hypokinesia. NEW 3+ moderate MR.
   [**Name13 (STitle) 2374**]/physiologic effusion.
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Hypotension: Review of ECGs by cardiology and new findings on
   ECHO suggest cardiac etiology of hypotension, possibly from recent
   ASMI. Also, possible LLL process ? PNA, though pt w/o increased WBC or
   fever. PNA could be worsening cardiac function in the setting recent
   MI, or could be cardiomyopathy related to PNA.
   -          Continue to treat PNA
   -          Change Levo to Ceftriaxone and Azithromycin as Levo more
   likely to worsen mental status and result in C-diff.
   -          Follow culture data
   -          Fluids, preferably albumin for intravascular repletion if
   needed, consider PRBC if HCT decreasing.
   -          F/u formal ECHO today
   -          Send C-diff
   2)       Chest pain: Limited by history, appears to have started 1 week
   prior. MI versus  Pnuemonia (?retrocardiac opacity and possible
   pleurisy) versus PE.  B/L LENIS showed no DVT, CT-[**MD Number(3) 2375**] be best for
   assessing PE, but pt w/ worsening renal function. With good explanation
   for hypotension from cardiomyopathy, will defer r/o of PE.
   -          Continue to treat PNA as above.
   -          Cycle CEs
   -          Consider VQ scan for PE if respiratory status worsening.
   3)       Acute renal failure: FENa is <1%.  Pre-renal azotemia
   possible, though not improving with hydration.  Hepatorenal syndrome on
   differential.  Pt w/ hypotension and worsening ARF likely secondary to
   decreased cardiac output.
   -          Hyperkalemia resolved, too low, repelated with 20meq of KCl
   -          Re-check PM lytes
   -          Attempt to increase renal perfusion and improve urine output
   w/ Albumin and blood product.
   -          Will follow urine Na and Osms before and after albumin to
   detect positive renal response
   -          Consider a-line placement and noninvasive measurement of
   cardiac output w/ Vigileo
   4)       Cirrhosis:  Mental status worse today per family. Etiology
   unclear. Abd US showed patent flow through TIPs and normal liver.
   Possible multifactorial w/ baseline hepatic encephalopathy worsened in
   setting of cardiogenic hypoperfusion and PNA.
   -          Continue lactulose, rifaximin
   -          D/c the levofloxacin
   -          F/u on Hepatology recs
   -          Low threshod for starting Midodrine/Octreotide
   5)       Coagulopathy: INR at 2.5, platelets at 52, Fibrinogen 66.
   Unclear etiology of coagulopathy. Likely [**12-22**] to liver chirrhosis, but
   could also represent additional process of DIC or TTP/HUS..
   -          Vit K PO x 3 days.
   -          Send smear for schistocytes
   -          Hematology c/s- f/u recs
   6)       Access: PIV x2 20g
   7)       Prophylaxis:  Pneumoboots,  bowel regimine as needed,
   8)       FEN: pt obtunded, will need to place NGT and get nutrition
   recs for TFs
   9)       CODE: full, needs to be confirmed w/ family
   10)   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-21**] 10:07 PM
   18 Gauge - [**2132-8-21**] 10:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-23 11:47:00 Physician Attending Progress Note
Chief Complaint: ARF, CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2132-8-22**] 09:04 AM
   liver abdomen and both legs.  TIPS intact.
   Cards and renal consults.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-22**] 03:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-23**] 12:14 AM
   Other medications:
   mvi, folate, levoflox, rifaxamin, lactulose, vit K
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-23**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 80 (79 - 96) bpm
   BP: 106/54(66) {91/41(53) - 119/67(77)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,140 mL
                                                                    381 mL
   PO:
             TF:
   IVF:
                                                                  1,340 mL
                                                                    111 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                    332 mL
                                                                     95 mL
   Urine:
                                                                    332 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,808 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), JVD to
   the angle of the jaw
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: left base), minimal
   crackles
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   8.8 g/dL
   46 K/uL
   181 mg/dL
   2.5 mg/dL
   16 mEq/L
   3.3 mEq/L
   33 mg/dL
   119 mEq/L
   147 mEq/L
   26.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2132-8-21**]  10:55 PM
                             [**2132-8-22**]  04:45 AM
                             [**2132-8-22**]  03:35 PM
                             [**2132-8-23**]  03:03 AM
                             [**2132-8-23**]  04:18 AM
   WBC
   5.0
   4.5
   3.9
   3.7
   Hct
   33.0
   31.3
   25.8
   26.2
   Plt
   72
   70
   52
   46
   Cr
   2.1
   2.2
   2.2
   2.4
   2.5
   TropT
   0.04
   Glucose
   163
   181
   163
   195
   181
   Other labs: PT / PTT / INR:25.8/150.0/2.5, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:26/27, Alk Phos / T Bili:91/4.3,
   Fibrinogen:66 mg/dL, Albumin:3.2 g/dL, LDH:201 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   68-year-old woman with hypotension (improved) in the setting of new
   systolic and valvular acute CHF, and chronic severe liver disease/HCC,
   as well as possible pneumonia.
   The main challenge is trying to perfuse her kidneys adequately in the
   setting of new CHF and acute renal failure.  We will place an arterial
   line and measure SVV and a pulse-contour assessment of cardiac output.
   We will attempt to volume resuscitate until we see signs of pulmonary
   edema, and then consider either diuresis or inotropic therapy.  Will
   prefer blood or albumin as volume challenge.  If moving to inotropic
   therapy, may place more invasive monitors.  Will measure pre- and
   post-challenge
   Encephalopathy
 likely hepatic + toxic-metabolic.  Continue current
   rx.  Change levoflox to CTX/azithro in case it is contributing
   Diabetes
 tighten glycemic control a bit
   Anemia
 transfuse given ARF and apparent hypovolemia
   Acidosis
 check VBG
   Coagulopathy
 suspect DIC may be playing a role, as well as liver
   disease.  PTT of 150 does not appear to be an artifact.  Will consult
   hematology and consider transfusing cryo given low fibrinogen.
   Cirrhosis
 mgmt as per ICU team note and hepatology
s input
   Other issues as per ICU team note.
   ICU Care
   Nutrition: NPO for now.  Nutrition consult.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-8-21**] 10:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2132-08-24 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Forma ECHO [**2132-8-23**]:
   Received Albumin 25g in 500cc D5 x 2 with improved SBP from 90s to
   110-120s
   Received 1 unit PRBC last night
   HCT stayed stable after transfusion from 25.7 to 25.8
   Pt made no urine after fluid and no change in urine osms/na/cr.
   Pt was increasingly tachypnic w/ RR 18-22 all night, increased work of
   breathing and with increased rales on exam.
   She received 10mg IV lasix with good urine response and a CXR was taken
   showing some increased vascular markings.
   Pt made good urine in the morning and maintained her BP and had
   improved mental status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-22**] 03:45 AM
   Azithromycin - [**2132-8-23**] 03:12 PM
   Ceftriaxone - [**2132-8-23**] 04:13 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-24**] 01:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-24**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 84 (79 - 99) bpm
   BP: 115/65(77) {94/42(54) - 126/69(83)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,395 mL
                                                                    754 mL
   PO:
           TF:
           41 mL
   IVF:
                                                                    600 mL
                                                                    263 mL
   Blood products:
                                                                  1,025 mL
                                                                    350 mL
   Total out:
                                                                  1,215 mL
                                                                    170 mL
   Urine:
                                                                    365 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.41/25/80.[**Numeric Identifier 176**]/14/-6
   Physical Examination
   Gen: Somnolent, but arouseable. More alert then yesterday. No verbal.
   Unable to communicate [**12-22**] MS and language.
   HEENT: dry MM, PERRL
   Resp: Bronchial breath sounds at LLL, wet rales bilaterally, L > R, up
   [**Date range (1) 2390**] of back.
   CV: RRR nl s1 s2 [**1-24**] HSM, heard in axilla, unchanged from prev
   Abd: Soft, NT/ND, no gross ascites
   EXT: Radial pulses 2+, DP 2+, trace pedal edema, new but very subtle.
   Skin:  Dry, turgor improved from previous.
   Neurologic: Responsive to voice and touch, downward toes,  no
   asterixis,
   Labs / Radiology
   33 K/uL
   9.1 g/dL
   149 mg/dL
   2.8 mg/dL
   14 mEq/L
   4.8 mEq/L
   38 mg/dL
   121 mEq/L
   146 mEq/L
   25.8 %
   2.3 K/uL
        [image002.jpg]
   AM HCT: 27.0
   AM LYTES: 148/3.5/121/17/38/2.3/163
                             [**2132-8-21**]  10:55 PM
                             [**2132-8-22**]  04:45 AM
                             [**2132-8-22**]  03:35 PM
                             [**2132-8-23**]  03:03 AM
                             [**2132-8-23**]  04:18 AM
                             [**2132-8-23**]  04:38 PM
                             [**2132-8-23**]  11:20 PM
                             [**2132-8-24**]  01:24 AM
   WBC
   5.0
   4.5
   3.9
   3.7
   2.3
   Hct
   33.0
   31.3
   25.8
   26.2
   25.7
   25.8
   Plt
   72
   70
   52
   46
   33
   Cr
   2.1
   2.2
   2.2
   2.4
   2.5
   2.5
   2.8
   TropT
   0.04
   TCO2
   16
   Glucose
   163
   181
   163
   195
   181
   228
   149
   Other labs: PT / PTT / INR:24.7/52.2/2.4, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:27/58, Alk Phos / T Bili:71/6.6,
   Fibrinogen:66 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.1 g/dL, LDH:363
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   MICRO: c-diff NEG. Urinary legionella: Neg. Ucx: gram + cocci. BCx: no
   growth to date.
   CXR: [**2132-8-23**]: : Persistent left lower lobe opacity consistent with left
   lower lobe atelectasis and/or pneumonia. Small left pleural effusion is
   unchanged.
   ECHO [**2132-8-23**]: LVEF = 40%, IMPRESSION: Dilated global cardiomyopathy
   with mild global hypokinesis. Mild right ventricular dilation and
   dysfunction. Moderate to severe eccentric mitral regurgitation.
   Moderate tricuspid regurgitation. Moderate pulmonary hypertension.
   CXR: [**2132-8-24**]:  pending
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Hypotension, likely cardiogenic shock, as clear end organ
   hypoperfusion with ARF, and ?MS change. Review of ECGs by cardiology
   and new findings on ECHO suggest cardiac etiology of hypotension,
   possibly from recent ASMI. Also, possible LLL process ? PNA, though pt
   w/o increased WBC or fever. PNA could be worsening cardiac function in
   the setting recent MI, or could be cardiomyopathy related to PNA.
   Addition finding of possible UTI could also be contributing.
   -          Continue to treat PNA
   -          Given recent hospitalization prior to admission, pt meets
   criteria for HAP, will change VANC, Zosyn, and Azithromycin
   -          Follow culture data
   -          Was fully volume resuscitated yesterday, and developed some
   pulmonary edema. Hold off on fluids this am, but will monitor urine
   output. If < 30 cc/hr will try additional albumin/IVF/blood, or
   consider Dobutamine to increase CO or hydralazine to decrease
   afterload.
   -          F/u other cx data and C-diff
   2)       Chest pain: Limited by history, appears to have started 1 week
   prior. MI versus  Pnuemonia (?retrocardiac opacity and possible
   pleurisy) versus PE.  B/L LENIS showed no DVT, CT-[**MD Number(3) 2375**] be best for
   assessing PE, but pt w/ worsening renal function. With good explanation
   for hypotension from cardiomyopathy, will defer r/o of PE. CEx have
   been stable at 0.05,0.04, 0.04, and will likely remain eleveated [**12-22**]
   her acute renal failure.
   -          Continue to treat PNA as above.
   3)       Acute renal failure: FENa is <1%. (0.3% this am) Pre-renal
   azotemia possible, though not initially improving with hydration.
   Hepatorenal syndrome also on differential.  Pt w/ hypotension and
   worsening ARF likely secondary to decreased cardiac output. UOP did not
   respond to > 1.5L IVF until pt given 10mg IV lasix. Then UOP improved.
   Lasix response evidence of better renal perfusion.
   -          Re-check PM lytes
   -          Attempt to increase renal perfusion and improve urine output
   w/ Albumin and blood product as before, consider adding
   Dobutamine/Hydralazine as described above.
   -          Consider a-line placement and noninvasive measurement of
   cardiac output w/ Vigileo
   3.5) UTI? Cx growing gram positive cocci ~1000/ml. Uncommon pathogen of
   urine. Well covered by Vanc/Zosyn/Azithro.
   3.6) Hypernatremia. Likely [**12-22**] to overall hypovolemia. Will treat w/
   free water flushes at 100cc q4 hours w/ TFs.
   -       PM lytes
   4)       Cirrhosis:  Mental status improved today after hydration and
   d/c of levofloxacin. Etiology unclear. Possible multifactorial w/
   baseline hepatic encephalopathy worsened in setting of cardiogenic
   hypoperfusion and PNA and UTI.
   -          Continue lactulose, rifaximin
   -          Treat PNA and UTI
   -          F/u on Hepatology recs
   -          Low threshod for starting Midodrine/Octreotide
   5)       Coagulopathy: INR at 2.5, platelets at 52 -> 33, Fibrinogen
   66. Unclear etiology of coagulopathy. Likely [**12-22**] to liver chirrhosis,
   but could also represent additional process of DIC or
   TTP/HUS..Hematology c/s recs appreciated, suggest that unlikely to
   TPP/HUS as has no FDPs and no schistocytes on smear, likely [**12-22**] liver
   and renal failure.  Pt also has had hx of previous thrombocyto penia
   and pancytopenia.
   -          Vit K PO x 3 days rep hematology rec
   -          Hematology c/s, appreciate recs
   -          Will transfuse platelets if fall below 20.
   6)       Access: PIV x2 20g
   7)       Prophylaxis:  Pneumoboots,  bowel regimine as needed,
   8)       FEN: NGT placed yesterday and TFs began. Free water flushes
   for hypernatremia.
   9)       CODE: full, needs to be confirmed w/ family
   10)   DISPO: ICU
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2132-8-24**] 01:59 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-21**] 10:07 PM
   18 Gauge - [**2132-8-23**] 01:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-24 09:15:00 Physician Attending Progress Note
Chief Complaint: renal failure, hypotension, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   volume challenge --> increased UOP and increase UNa
   crackles --> dose of Lasix ~5a
   ABG confirmed alkalemia
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-22**] 03:45 AM
   Azithromycin - [**2132-8-23**] 03:12 PM
   Ceftriaxone - [**2132-8-23**] 04:13 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-24**] 01:57 AM
   Other medications:
   mvi, folate, rifaxamin, lactulose, vit k, sqi, nadolol, CTX, azithro
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-24**] 08:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 90 (79 - 99) bpm
   BP: 91/50(61) {91/42(54) - 126/69(83)} mmHg
   RR: 24 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
           Total In:
                                                                  2,395 mL
                                                                  1,012 mL
   PO:
           TF:
           94 mL
   IVF:
                                                                    600 mL
                                                                    288 mL
   Blood products:
                                                                  1,025 mL
                                                                    350 mL
   Total out:
                                                                  1,215 mL
                                                                  1,172 mL
   Urine:
                                                                    365 mL
                                                                    272 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.41/25/80.[**Numeric Identifier 176**]/17/-6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   33 K/uL
   163 mg/dL
   2.3 mg/dL
   17 mEq/L
   3.5 mEq/L
   38 mg/dL
   121 mEq/L
   148 mEq/L
   27.0 %
   2.3 K/uL
        [image002.jpg]
                             [**2132-8-21**]  10:55 PM
                             [**2132-8-22**]  04:45 AM
                             [**2132-8-22**]  03:35 PM
                             [**2132-8-23**]  03:03 AM
                             [**2132-8-23**]  04:18 AM
                             [**2132-8-23**]  04:38 PM
                             [**2132-8-23**]  11:20 PM
                             [**2132-8-24**]  01:24 AM
                             [**2132-8-24**]  06:35 AM
   WBC
   5.0
   4.5
   3.9
   3.7
   2.3
   Hct
   33.0
   31.3
   25.8
   26.2
   25.7
   25.8
   27.0
   Plt
   72
   70
   52
   46
   33
   Cr
   2.1
   2.2
   2.2
   2.4
   2.5
   2.5
   2.8
   2.3
   TropT
   0.04
   TCO2
   16
   Glucose
   163
   181
   163
   195
   181
   228
   149
   163
   Other labs: PT / PTT / INR:25.1/52.8/2.5, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:27/58, Alk Phos / T Bili:71/6.6,
   Fibrinogen:66 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:4.1 g/dL, LDH:363
   IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR with increased effusion. lucency at left base is probably
   skin fold.
   Assessment and Plan
   68-year-old woman with hypotension (improved) in the setting of new
   systolic and valvular acute CHF, and chronic severe liver disease/HCC,
   as well as likely pneumonia.  Even after her hypotension improved, she
   still had evidence of occult hypoperfusion with ARF, altered mental
   status, and mildly elevated lactate.
    Hemodynamics: Acute systolic and valvular CHF, cirrhosis, and acute
   renal failure
   The main challenge is trying to perfuse her kidneys adequately in the
   setting of new CHF and acute renal failure.
   Her response to volume challenge is equivocal: her UNa improved but she
   developed pulmonary edema.  Her urine output appears to have picked up
   after Lasix, rather than in response to fluids.  (Lasix was reportedly
   given at about 2a, rather than at 5a as is written in [**Month (only) **]).  Likely, we
   corrected her hypovolemia and allowed her to respond to Lasix.
   Today, we will follow her.  If her urine output falls, will consider
   trial of afterload reduction with hydralazine if BP will tolerate, and
   dobutamine if not.  Will discuss octreotide/midodrine further at that
   point.
   Encephalopathy
   Likely hepatic + toxic-metabolic.  Improved a bit.  Continue current
   rx.
   Pneumonia
   Will broaden to vanco, zosyn, azithro.  Avoiding quinolones in case
   contritubted to encephalopathy.
   Anemia
   Appreciate hematology
s help.
   Acid/base
   There is a substantial component of respiratory alkalosis here, though
   the disorder is mixed.
   Coagulopathy
   Appreciate hematology
s help.
   Cirrhosis
   Mgmt as per ICU team note and hepatology
s input
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2132-8-24**] 01:59 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-8-21**] 10:07 PM
   18 Gauge - [**2132-8-23**] 01:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 min
   Patient is critically ill

2132-08-25 05:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   IN am, followng urine output: None over 2 hours, so started hydral 5 IV
   q6.
   3pm labs Na 150, K 3.5, HCO3 13, Cr 2.5. Free water deficit 2.8 L.
   Given D5W at 150/hr x 2 L.
   Noted to have increased WOB with retractions. Repeat CXR relatively
   unchanged with mild pulmonary edema
   ECG unchanged. ABG 7.41/25/97/16/ lactate 2.5 from 2.1 (mostly
   unchanged from prior)
   CT head wet read: No acute intracranial process. Old L frontal infarct
   1 unit PRBC given for intravascular volume repletion with no change in
   UOP. Lasix given in pm x 2 with some increased UOP.
   PICC ordered for lost IV access. [**Month (only) 51**] need FFP in am given elevated INR
   or reassess need for PICC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-8-23**] 04:13 PM
   Vancomycin - [**2132-8-24**] 10:30 AM
   Azithromycin - [**2132-8-24**] 03:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2132-8-25**] 04:00 AM
   Furosemide (Lasix) - [**2132-8-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-25**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 97 (85 - 118) bpm
   BP: 117/62(76) {91/50(61) - 130/100(104)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,972 mL
                                                                    963 mL
   PO:
             TF:
                                                                    713 mL
                                                                    238 mL
   IVF:
                                                                  1,174 mL
                                                                    725 mL
   Blood products:
                                                                  1,225 mL
   Total out:
                                                                  2,263 mL
                                                                     85 mL
   Urine:
                                                                    463 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,709 mL
                                                                    878 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/25/96.[**Numeric Identifier 181**]/12/-6
   Physical Examination
   Gen: Somnolent, but arouseable. Minimal verbal response to family.
   HEENT: dry MM, PERRL,
   Resp: End-expiratory wheezes diffusely, no rales or rhonchi. Pt
   continues to have increased work of breathing with abdominal
   contraction for expiration, and retractions visible at clavicles.
   CV: RRR nl s1 s2 [**1-24**] HSM, heard in axilla, unchanged from prev
   Abd: Soft, ND, not obviously tender, no gross ascites
   EXT: Radial pulses 2+, DP 1+ no pedal edema
   Skin:  Dry, turgor improved from previous, arms and face appear [**Hospital1 2435**]
   ? mild edema, but is non-pitting.
   Neurologic: Minimally responsive to voice and touch, PERRL, dolls eye
   reflex intact, downward toes,  no asterixis, 2+ patellar and biceps
   reflexes bilaterally. No clonus at ankles.
   Labs / Radiology
   42 K/uL
   11.0 g/dL
   313 mg/dL
   2.6 mg/dL
   12 mEq/L
   4.3 mEq/L
   41 mg/dL
   118 mEq/L
   143 mEq/L
   33.7 %
   4.6 K/uL
        [image002.jpg]
   LACTATE TREND: 1.8 ->  2.1 -> 2.5
                             [**2132-8-22**]  03:35 PM
                             [**2132-8-23**]  03:03 AM
                             [**2132-8-23**]  04:18 AM
                             [**2132-8-23**]  04:38 PM
                             [**2132-8-23**]  11:20 PM
                             [**2132-8-24**]  01:24 AM
                             [**2132-8-24**]  06:35 AM
                             [**2132-8-24**]  01:18 PM
                             [**2132-8-24**]  06:16 PM
                             [**2132-8-25**]  02:57 AM
   WBC
   3.9
   3.7
   2.3
   4.6
   Hct
   25.8
   26.2
   25.7
   25.8
   27.0
   33.7
   Plt
   52
   46
   33
   42
   Cr
   2.2
   2.4
   2.5
   2.5
   2.8
   2.3
   2.5
   2.6
   TCO2
   16
   16
   Glucose
   163
   195
   181
   [**Telephone/Fax (3) 2413**]
   242
   313
   Other labs: PT / PTT / INR:27.7/53.3/2.8, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:26/41, Alk Phos / T Bili:78/7.1,
   Fibrinogen:66 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:4.2 g/dL, LDH:294
   IU/L, Ca++:9.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   CXR [**2132-8-25**]: PICC line withdrawn to mid-SVC. Increased interstitial
   haziness, likely increasing effusion, suggests new CHF.
   CXR [**2132-8-24**]: Persistent retrocardiac opacity is present suggesting
   atelectasis, although focal consolidation cannot be excluded.
   IMPRESSION: No significant change from prior.
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Hypotension, likely cardiogenic shock, as clear end organ
   hypoperfusion with ARF, and ?MS change. Review of ECGs by cardiology
   and new findings on ECHO suggest cardiac etiology of hypotension,
   possibly from recent ASMI. Also, possible LLL process ? PNA, though pt
   w/o increased WBC or fever. PNA could be worsening cardiac function in
   the setting of recent MI, or could be cardiomyopathy [**12-22**] to PNA, though
   given ECG, MI more likely.
   -          Continue to treat PNA, given recent hospitalization prior to
   admission, pt meets criteria for HAP, abx were changed to VANC, Zosyn,
   and Azithromycin.
   -          Follow culture data and repeat C-diff
   -          Hypotension resolved w/ fluids and has remained stable in
   the 90s-120s
   -          LOS fluid total is + 6-7L
   2)       Acute renal failure: Unclear etiology. On presentation FENa <
   1/% (0.3 on Saturday) suggesting pre-renal azotemia however renal
   function did not improve w/ hydration that was sufficient to bring SBPs
   to 120s and cause early pulmonary edema, however she did respond to
   lasix at that time suggesting some improved renal perfusion. Since,
   urine output has decreased and failed to respond to lasix 20mg IV x2.
   Pt appears fluid overloaded w/ end expiratory wheezes on exam, some
   increased upper extremity edema, and continued increased work of
   breathing. Hydralazine was started without significant increase in UOP.
   Overall, intravascular fluid volume is not clear.
   -          Attempted to increase renal perfusion and improve urine
   output w/ Albumin and blood product and hydralazine, will consider
   adding Dobutamine to increase CO.
   -          Consider starting Midodrine/Octreotide for HRS
   -          Consider a-line placement and noninvasive measurement of
   cardiac output w/ Vigileo versus or placement of a IJ line for CVP
   measurement and adjust IVF accordingly.
   -          Discuss CVVH or HD w/ renal
   2.5) Tachypnea and increased WOB. Pt has been maintaining good O2 sats
   on room air up to this point, despite her  tachypnea and extensive use
   of  accessory muscles. Etiology of her tachypnea is unclear and may be
   due to a combination of her liver disease, PNA, and new CHF.
   - AM CXRs
   - Consider elective intubation as patient is somnolent and may not be
   able to protect her airway in the setting of tube feeds and poor MS.
   3)       Chest pain: Limited by history, appears to have started 1 week
   prior. MI at that time seems likely as signs of ASMI on ECGs and echo
   showing new decreased EF and global hypokinesis since [**1-26**] . Other
   etiologies considered were PE and PNA. Pt had LE U/S with no DVT, CT-PA
   deferred for poor renal function. CEx have been stable at 0.05,0.04,
   0.04, and will likely remain eleveated [**12-22**] her acute renal failure.
   -          Continue to treat PNA as above.
   -          On BB for post-MI
   3.3) UTI? Cx growing gram positive cocci ~1000/ml. Uncommon pathogen of
   urine. Well covered by Vanc/Zosyn/Azithro.
   3.6) Hypernatremia. Was likely [**12-22**] to overall hypovolemia. Will treat
   w/ free water flushes at 100cc q4 hours w/ TFs.
   -       resolved, will follow sodium
   4)       Cirrhosis and poor mental status: MS improved yesterday after
   hydration and d/c of levofloxacin. Etiology unclear. Possible
   multifactorial w/ baseline hepatic encephalopathy worsened in setting
   of cardiogenic hypoperfusion and PNA and UTI. Given renal failure,
   question of HRS.
   -          Continue lactulose, rifaximin
   -          Treat PNA and UTI
   -          F/u on Hepatology recs
   -          Consider starting Midodrine/Octreotide for HRS
   -          Consider invasive CVP monitoring as above for intravascular
   status
   5)       Coagulopathy: INR at 2.5 yesterday, now 2.9, platelets at 42
   from 33.  Fibrinogen 66, FDP 0-10. Unclear etiology of coagulopathy.
   Likely [**12-22**] to liver chirrhosis, but could also represent additional
   process of DIC or TTP/HUS..Hematology c/s recs appreciated, suggest
   that unlikely to TPP/HUS as has no FDPs and no schistocytes on smear,
   likely [**12-22**] liver and renal failure.  Pt has had hx of previous
   thrombocyto penia and pancytopenia.
   -          Vit K PO x 3 days completed,
   -          Hematology continues to follow will review a second smear
   tomorrow, appreciate recs
   -          Will transfuse platelets if fall below 20.
   6)       Access: PIV x2 20g
   7)       Prophylaxis:  Pneumoboots,  bowel regimine as needed,
   8)       FEN: NGT placed yesterday and TFs began. Free water flushes
   for hypernatremia.
   9)       CODE: full, needs to be confirmed w/ family
   10)   DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2132-8-25**] 03:05 AM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-23**] 01:21 PM
   20 Gauge - [**2132-8-24**] 11:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-25 09:47:00 Physician Attending Progress Note
Chief Complaint: resp distress ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hydralazine overnight
   Lasix x 2 without sig increase in UOP
   PICC placed this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-8-23**] 04:13 PM
   Vancomycin - [**2132-8-24**] 10:30 AM
   Azithromycin - [**2132-8-24**] 03:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-25**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-25**] 04:00 AM
   Hydralazine - [**2132-8-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-25**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 111 (85 - 118) bpm
   BP: 134/76(95) {92/55(66) - 134/100(104)} mmHg
   RR: 29 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  3,972 mL
                                                                  1,695 mL
   PO:
             TF:
                                                                    713 mL
                                                                    387 mL
   IVF:
                                                                  1,174 mL
                                                                  1,308 mL
   Blood products:
                                                                  1,225 mL
   Total out:
                                                                  2,263 mL
                                                                  1,125 mL
   Urine:
                                                                    463 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,709 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/25/96.[**Numeric Identifier 181**]/12/-6
   Physical Examination
   Gen: lying in bed, extremely somnolent and unable to arouse only with
   significant physical stimuli only to moaning
   CV: rr nls1/s2 II/VI sem
   Chest: prolonged exp phase with wheezing and use of abd muscle for end
   expiratory rounding
   Abd: actiuve exhalation as above, soft +BS
   Ext: 1+ [**Last Name (un) **],a
   Neuro: nearly obtunded
   Labs / Radiology
   11.0 g/dL
   42 K/uL
   313 mg/dL
   2.6 mg/dL
   12 mEq/L
   4.3 mEq/L
   41 mg/dL
   118 mEq/L
   143 mEq/L
   33.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2132-8-22**]  03:35 PM
                             [**2132-8-23**]  03:03 AM
                             [**2132-8-23**]  04:18 AM
                             [**2132-8-23**]  04:38 PM
                             [**2132-8-23**]  11:20 PM
                             [**2132-8-24**]  01:24 AM
                             [**2132-8-24**]  06:35 AM
                             [**2132-8-24**]  01:18 PM
                             [**2132-8-24**]  06:16 PM
                             [**2132-8-25**]  02:57 AM
   WBC
   3.9
   3.7
   2.3
   4.6
   Hct
   25.8
   26.2
   25.7
   25.8
   27.0
   33.7
   Plt
   52
   46
   33
   42
   Cr
   2.2
   2.4
   2.5
   2.5
   2.8
   2.3
   2.5
   2.6
   TCO2
   16
   16
   Glucose
   163
   195
   181
   [**Telephone/Fax (3) 2413**]
   242
   313
   Other labs: PT / PTT / INR:27.7/53.3/2.8, CK / CKMB /
   Troponin-T:64//0.04, ALT / AST:26/41, Alk Phos / T Bili:78/7.1,
   Fibrinogen:66 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:4.2 g/dL, LDH:294
   IU/L, Ca++:9.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   68-year-old woman with hypotension (improved) in the setting of new
   systolic and valvular acute CHF, and chronic severe liver disease/HCC,
   as well as likely pneumonia.  Even after her hypotension improved, she
   still had evidence of occult hypoperfusion with ARF, altered mental
   status, and mildly elevated lactate.
   1. Hemodynamics: Acute systolic and valvular CHF, cirrhosis, and acute
   renal failure. The main challenge is trying to perfuse her kidneys
   adequately in the setting of new CHF and acute renal failure. Her
   response to volume challenge is equivocal: her UNa improved but she
   developed pulmonary edema.  Her urine output appears to have picked up
   after Lasix, rather than in response to fluids. Likely, we corrected
   her hypovolemia and allowed her to respond to Lasix. At this point, by
   exam she seems even more overloaded and we need to push to get fluid
   off. We will start Lasix drip., speak with Hpeatology about role of
   Midodrine/Octreotide, and Renal about issue of eventual HD or CVVH.
   2. Encephalopathy : Likely hepatic + toxic-metabolic.  Head CT prelim
   read negative.
   3. Pneumonia - Will broaden to vanco, zosyn, azithro.  Avoiding
   quinolones in case contritubted to encephalopathy.
    4 Anemia Appreciate hematology
s help.
   5. Coagulopathy Appreciate hematology
s help.
   6. Cirrhosis Mgmt as per ICU team note and hepatology
s input
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2132-8-25**] 03:05 AM 35 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-23**] 01:21 PM
   20 Gauge - [**2132-8-24**] 11:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   MICU attending Addendum
   Caled to bedside at 12:15 PM for Acute first wide then [**Location (un) 2427**] complex
   tachyacria to 200 with hypotension. Pt placed on monitor and appeared
   to be afib. Amio load 150 mg IV then drip at 1mg/hr initiated. Still HR
   180- given metoprolol 5 mg IV psuh x 2 and on second dose converted to
   sinus at 80. PICC had been in RA and was pulled back 6 CM>
   Stat bedside echo looked to me like no sig pericardial eff but lower
   EF.
   Plan
   New onset Afib
 Amio load. Start po bblocker. Repeat formal Eco and
   discuss with Cards.
   [**Month (only) 51**] be that she has significant atrial stretch and need to get fkuid
   off is even more pressing. If Echo is consistent will speak with Renal
   about HD/CVVH starting today.
   Critical Care 40 min

2132-08-26 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   A PICC line was placed and was appeared to be several centimeters into
   the R atrium.
   Pt was observed to role onto her side, and then entered into a rapid
   rhythm that may have been VTAC to begin with but was a narrow complex
   tachycardia when the MICU team arrived.
   The PICC line was pulled back and the pt received amiodarone and
   lopressor and converted back to sinus.
   Pt maintained good BPs and O2 sats throughout.
   Pt had a repeat ECHO: Compared with the prior study (images reviewed)
   of [**2132-8-23**], biventricular systolic function is more depressed, EF =
   25%.
   Pt was started on a Lasix drip, and then given boluses of Diuril to
   which she responded with good urine output.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-8-23**] 04:13 PM
   Vancomycin - [**2132-8-24**] 10:30 AM
   Azithromycin - [**2132-8-24**] 03:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-25**] 11:43 PM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-26**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36
C (96.8
   HR: 73 (60 - 207) bpm
   BP: 113/56(70) {88/18(47) - 147/89(96)} mmHg
   RR: 23 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  3,379 mL
                                                                    256 mL
   PO:
             TF:
                                                                    657 mL
   IVF:
                                                                  2,542 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    340 mL
   Urine:
                                                                    510 mL
                                                                    340 mL
   NG:
   Stool:
                                                                  1,025 mL
   Drains:
   Balance:
                                                                    844 mL
                                                                    -84 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///15/
   Physical Examination
   Gen: Somnolent, but arouseable. Minimal verbal response to family.
   HEENT: dry MM, PERRL,
   Resp: Lungs clearer than yesterday. Slight bibasilar rales, no
   wheezing, no rhonchi. Milder accessory muscle use and milder
   retractions visible at clavicles.
   CV: RRR nl s1 s2, axillary murmur not hear this am, likely [**12-22**] to pt
   position on her side
   Abd: Soft, ND, not obviously tender, no gross ascites
   EXT: Radial pulses 2+, DP 1+ no pedal edema, some increased upper
   extremity edema, L > R
   Skin:  Dry, turgor improved from previous, arms and face appear [**Hospital1 2435**]
   ? mild edema, but is non-pitting.
   Neurologic: Minimally responsive to voice and touch, PERRL, dolls eye
   reflex intact, downward toes,  no asterixis, 2+ patellar and biceps
   reflexes bilaterally. No clonus at ankles.
   Labs / Radiology
   29 K/uL
   10.5 g/dL
   128 mg/dL
   3.1 mg/dL
   15 mEq/L
   3.9 mEq/L
   45 mg/dL
   122 mEq/L
   149 mEq/L
   31.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2132-8-23**]  04:38 PM
                             [**2132-8-23**]  11:20 PM
                             [**2132-8-24**]  01:24 AM
                             [**2132-8-24**]  06:35 AM
                             [**2132-8-24**]  01:18 PM
                             [**2132-8-24**]  06:16 PM
                             [**2132-8-25**]  02:57 AM
                             [**2132-8-25**]  12:32 PM
                             [**2132-8-26**]  02:13 AM
                             [**2132-8-26**]  03:45 AM
   WBC
   2.3
   4.6
   5.7
   5.4
   5.3
   Hct
   25.7
   25.8
   27.0
   33.7
   34.0
   30.6
   31.4
   Plt
   33
   42
   41
   34
   29
   Cr
   2.5
   2.8
   2.3
   2.5
   2.6
   3.1
   TropT
   0.04
   0.05
   TCO2
   16
   16
   Glucose
   [**Telephone/Fax (2) 2447**]
   128
   Other labs: PT / PTT / INR:28.4/76.4/2.9, CK / CKMB /
   Troponin-T:75/5/0.05, ALT / AST:26/41, Alk Phos / T Bili:78/7.1,
   Fibrinogen:66 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:4.2 g/dL, LDH:294
   IU/L, Ca++:10.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   ECHO [**2132-8-25**]: The left atrium is mildly dilated. Left ventricular wall
   thicknesses and cavity size are normal. There is moderate to severe
   global left ventricular hypokinesis (LVEF = 25 %). [Intrinsic left
   ventricular systolic function is likely more depressed given the
   severity of valvular regurgitation.] Right ventricular chamber size is
   normal with moderate global free wall hypokinesis. There is abnormal
   diastolic septal motion/position consistent with right ventricular
   volume overload. The aortic valve leaflets appear structurally normal
   with good leaflet excursion. No aortic regurgitation is seen. The
   mitral valve leaflets are structurally normal. There is no mitral valve
   prolapse. Moderate to severe (3+) mitral regurgitation is seen.
   Moderate [2+] tricuspid regurgitation is seen. There is no pericardial
   effusion. Compared with the prior study (images reviewed) of [**2132-8-23**],
   biventricular systolic function is more depressed.
   CXR 10 /[**4-27**]: IMPRESSION: 1. Left-sided PICC withdrawn, with tip
   projecting over the mid SVC. 2. New evidence of CHF.
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Hypotension/Shock, likely cardiogenic shock, as clear end
   organ hypoperfusion with ARF, and ?MS change. Review of ECGs by
   cardiology and new findings on ECHO suggest cardiac etiology of
   hypotension, possibly from recent ASMI. Also, possible LLL process ?
   PNA, though pt w/o increased WBC or fever. PNA could be worsening
   cardiac function in the setting of recent MI, or could be
   cardiomyopathy [**12-22**] to PNA, though given ECG, MI more likely.
   -          Continue to treat PNA, given recent hospitalization prior to
   admission, pt meets criteria for HAP, abx were changed to VANC, Zosyn,
   and Azithromycin. Hypotension resolved w/ fluids and has remained
   stable in the 90s-120s. ECHO shows increased right-sided pressures,
   fluid overload. Severe tricuspid and mitral regurge suggest fluid
   overload might be worsening CO.
   -          Diuresis today
   -          Follow culture data and repeat C-diff
   -          Set up for central access and arterial monitoring to be able
   to trend CO while diuresis and prepare for CVVH
   2)       Acute renal failure: Unclear etiology, likely [**12-22**] to
   cardiogenic shock and hypoperfusion. Hydralazine was started without
   significant increase in UOP. Initialy fluid hydration increased SBP to
   110s-120s, but did not increase UOP, though she did initially respond
   to lasix, but then despitie mantiaing good SBP no longer resonded.
   Lasix drip was started without significant response, but some good UOP
   in response to chlorothiazide. Given more obvious cardiogenic shock,
   unlikely that renal dysfunction is secondary to hepatorenal syndrome,
   so will not start Midodrine/Octreotide.
   - Consider CVVH today to decrease volume overload and improve CO
   - Continue hydralazine
   - Renal following, appreciate recs
   2.5) Tachypnea and increased WOB. Pt has been maintaining good O2 sats
   on room air up to this point, despite her  tachypnea and extensive use
   of  accessory muscles. Etiology of her tachypnea is unclear and may be
   due to a combination of her liver disease, PNA, and new CHF and fluid
   overload.
   - AM CXRs
   - Consider elective intubation as patient is somnolent and may not be
   able to protect her airway in the setting of tube feeds and poor MS.
   3)       Chest pain: Limited by history, appears to have started 1 week
   prior. MI at that time seems likely as signs of ASMI on ECGs and echo
   showing new decreased EF and global hypokinesis since [**1-26**] . Other
   etiologies considered were PE and PNA. Pt had LE U/S with no DVT, CT-PA
   deferred for poor renal function. CEx have been stable at 0.05,0.04,
   0.04, and will likely remain eleveated [**12-22**] her acute renal failure.
   -          Continue to treat PNA as above.
   -          On BB for post-MI
   3.3) UTI? Cx growing gram positive cocci ~1000/ml. Uncommon pathogen of
   urine. Well covered by Vanc/Zosyn/Azithro.
   3.6) Hypernatremia. Was likely [**12-22**] to overall intravascular
   hypovolemia. Will treat w/ free water flushes at n250cc q4 hours w/
   TFs.
   4)       Cirrhosis and poor mental status: MS improved yesterday after
   hydration and d/c of levofloxacin. Etiology unclear. Possible
   multifactorial w/ baseline hepatic encephalopathy worsened in setting
   of cardiogenic hypoperfusion and PNA and UTI. Given renal failure,
   question of HRS.
   -          Continue lactulose, rifaximin
   -          Treat PNA and UTI
   -          F/u on Hepatology recs
   -          Consider starting Midodrine/Octreotide for HRS
   -          Consider invasive CVP monitoring as above for intravascular
   status
   5)       Coagulopathy: INR at 2.5 yesterday, now 2.9, platelets at 42
   from 33.  Fibrinogen 66, FDP 0-10. Unclear etiology of coagulopathy.
   Likely [**12-22**] to liver chirrhosis, but could also represent additional
   process of DIC or TTP/HUS..Hematology c/s recs appreciated, suggest
   that unlikely to TPP/HUS as has no FDPs and no schistocytes on smear,
   likely [**12-22**] liver and renal failure.  Pt has had hx of previous
   thrombocyto penia and pancytopenia.
   -          Vit K PO x 3 days completed,
   -          Hematology continues to follow will review a second smear
   tomorrow, appreciate recs
   -          Will transfuse platelets if fall below 20.
   6)       Access: PIV x2 20g
   7)       Prophylaxis:  Pneumoboots,  bowel regimine as needed,
   8)       FEN: NGT placed yesterday and TFs began. Free water flushes
   for hypernatremia.
   9)       CODE: full, needs to be confirmed w/ family
   10)   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-23**] 01:21 PM
   20 Gauge - [**2132-8-24**] 11:32 AM
   PICC Line - [**2132-8-25**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-26 11:25:00 Physician Attending Progress Note
Chief Complaint: liver disease, cardiomyopathy, SVT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2132-8-25**] 08:00 AM
 EKG - At [**2132-8-25**] 12:30 PM
 EKG - At [**2132-8-26**] 04:30 AM
   This AM recurrent SVT - required intubation, cardioversion, Amio blous,
   IV bblocker
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-8-23**] 04:13 PM
   Vancomycin - [**2132-8-24**] 10:30 AM
   Azithromycin - [**2132-8-24**] 03:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-25**] 11:43 PM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-8-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-26**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 66 (60 - 207) bpm
   BP: 107/55(67) {88/18(47) - 147/89(96)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,379 mL
                                                                    488 mL
   PO:
             TF:
                                                                    657 mL
   IVF:
                                                                  2,542 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  1,510 mL
   Urine:
                                                                    510 mL
                                                                    610 mL
   NG:
   Stool:
                                                                  1,025 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                    844 mL
                                                                 -1,022 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   Gen: intubated and sedated
   CV: tachy RR
   Chest: exp wheezes
   Abd: distended soft + BS
   Ext: trace LE edema bilat 2+ arm edema
   Neuro: responsive to strong tactile stimuli only
   Labs / Radiology
   10.1 g/dL
   36 K/uL
   119 mg/dL
   3.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   47 mg/dL
   120 mEq/L
   149 mEq/L
   30.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2132-8-23**]  11:20 PM
                             [**2132-8-24**]  01:24 AM
                             [**2132-8-24**]  06:35 AM
                             [**2132-8-24**]  01:18 PM
                             [**2132-8-24**]  06:16 PM
                             [**2132-8-25**]  02:57 AM
                             [**2132-8-25**]  12:32 PM
                             [**2132-8-26**]  02:13 AM
                             [**2132-8-26**]  03:45 AM
                             [**2132-8-26**]  07:57 AM
   WBC
   2.3
   4.6
   5.7
   5.4
   5.3
   5.4
   Hct
   25.8
   27.0
   33.7
   34.0
   30.6
   31.4
   30.1
   Plt
   33
   42
   41
   34
   29
   36
   Cr
   2.8
   2.3
   2.5
   2.6
   3.1
   3.3
   TropT
   0.04
   0.05
   0.06
   TCO2
   16
   16
   Glucose
   149
   163
   242
   [**Telephone/Fax (3) 2456**]
   119
   Other labs: PT / PTT / INR:30.6/48.8/3.1, CK / CKMB /
   Troponin-T:82/5/0.06, ALT / AST:72/145, Alk Phos / T Bili:64/6.4,
   Fibrinogen:66 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:4.2 g/dL, LDH:294
   IU/L, Ca++:10.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   68-year-old woman with hypotension (improved) in the setting of new
   systolic and valvular acute CHF, and chronic severe liver disease/HCC,
   as well as likely pneumonia.  Even after her hypotension improved, she
   still had evidence of occult hypoperfusion with ARF, altered mental
   status, and mildly elevated lactate.
   This AM has taken a turn for the worse with hemodynamic instability in
   setting of SVT and decompensated heart failure, inability to protect
   airway.
   1.       SVT: recurrent this AM with atrial tach and likely Afib- Amio
   load, start drip, po bblocker on board. Stat Echo to re- veal function.
   2.       Biventricular Heart Failure: At this point she is dilated
   bivent CHF, we must unload her heart- CVVH is the most effective way to
   do this. We will place fem line for CVVH when we place RIJ for CVP
   monitoring. Run negative 100-200 cc/hr and trend MAP and SCVO2.
   3.       ARF: CVVH as above
   4.       Encephalopathy : Likely hepatic + toxic-metabolic.  Head CT
   prelim read negative.
   5.       Anemia Appreciate hematology
s help.
   6.       Coagulopathy Appreciate hematology
s help.
   Other issues as per ICU team note.
   ICU Care
   Nutrition: start TFs
   Glycemic Control:  ssri
   Lines:
   18 Gauge - [**2132-8-23**] 01:21 PM
   20 Gauge - [**2132-8-24**] 11:32 AM
   PICC Line - [**2132-8-25**] 08:00 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  family meeting
   Code status: Full code
 however we need to potentially readdress as
   her critically ill status evolves. Spoke personally with cardiology
   Heptaology and Renal teams to coordinate care
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2132-08-27 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2132-8-26**] 08:28 AM
 INVASIVE VENTILATION - START [**2132-8-26**] 11:10 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2132-8-26**] 11:15 AM
   hr > 150 with b/p @ 66 systolic, cardioverted with synch 100 joules,
   amiodarone bolus 150 followed by drip at 0.5
 TRANSTHORACIC ECHO - At [**2132-8-26**] 11:53 AM
 MULTI LUMEN - START [**2132-8-26**] 06:19 PM
 DIALYSIS CATHETER - START [**2132-8-26**] 07:19 PM
 EKG - At [**2132-8-27**] 04:15 AM
   Afib 120's
 CARDIOVERSION/DEFIBRILLATION - At [**2132-8-27**] 05:16 AM
   Cardioverted with 100 J
   Pt became tachycardic and hypotensive, w/ a narrow complex tachycardia
   yesterday morning. She was intubated,  shocked, loaded w/ amiodarone
   150mg, and returned to a sinus rhythm, she was placed on an amiodarone
   drip at 0.5.  She was remained on the amiodarone drip all day. In
   preparation for invasive monitoring, pt received 4 units of FFP and 1
   bag f platelets. She had a right IJ line placed that developed a
   moderate, but stable hematoma, and a L venous groin line placed by
   renal for CVVH. The RIJ line showed CVPs of 30-35. Several attempts
   were made at a L radial arterial line, but were not successful and a
   line was placed in the R femoral artery. The lasix drips and diuril
   boluses were dc
d in expectation of CVVH and in the evening, pt was
   started on dobutamine (of note, though written for BB, they had been
   held for >24 hours for lower than BP criteria).  During the next [**12-23**]
   hours  the CVPs tended downward to 20s, and pt maintained good SBPs and
   HR. CVVH was started and run even for 1 hour, and then volume was taken
   off, after the 2^nd hour, pt went into a tachyarrythmia at the 130s,
   that appeared to be afib w/ RVR. The dobutamine was turned off and
   carotid massage applied, and the rhythm change to ?sinus at 100, pt
   maintained SBPs in the 90s and good sats. Pt then returned to the
   140-150s and began to drop her pressures and was then shocked, and
   started on phenylephrine, and the CVVH was turned off. The pt returned
   to sinus rhythm, and stayed there during the morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-24**] 10:30 AM
   Azithromycin - [**2132-8-24**] 03:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-26**] 11:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2132-8-26**] 11:15 AM
   Midazolam (Versed) - [**2132-8-26**] 04:18 PM
   Fentanyl - [**2132-8-26**] 06:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-27**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.2
   HR: 55 (0 - 154) bpm
   BP: 90/44(59) {73/39(52) - 113/63(80)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
    CVP: 22 (8 - 30)mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,650 mL
                                                                  1,663 mL
   PO:
   TF:
                                                                     10 mL
   IVF:
                                                                    403 mL
                                                                  1,033 mL
   Blood products:
                                                                  1,467 mL
   Total out:
                                                                  1,696 mL
                                                                    188 mL
   Urine:
                                                                    696 mL
                                                                     23 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    954 mL
                                                                  1,475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.34/27/181/15/-9
   Ve: 8.7 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Gen: Somnolent, but arouseable.
   HEENT: dry MM, PERRL,
   Resp: Lungs clearer than yesterday. No rales, no wheezing, no rhonchi.
   Milder accessory muscle use and milder retractions visible at
   clavicles.
   CV: RRR nl s1 s2.
   Abd: Soft, ND, not obviously tender, no gross ascites
   EXT: Radial pulses 1+, DP 1+ no pedal edema, some increased upper
   extremity edema, L > R
   Skin:  Dry, turgor friable appearing, but no breakdown, arms and face
   appear more full ? mild edema, but is non-pitting.
   Neurologic: Minimally responsive to voice and touch, PERRL, dolls eye
   reflex intact, downward toes,  no asterixis, 2+ patellar and biceps
   reflexes bilaterally. No clonus at ankles.
   Labs / Radiology
   26 K/uL
   8.5 g/dL
   139 mg/dL
   3.3 mg/dL
   15 mEq/L
   3.6 mEq/L
   44 mg/dL
   115 mEq/L
   147 mEq/L
   25.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2132-8-26**]  11:20 AM
                             [**2132-8-26**]  05:39 PM
                             [**2132-8-26**]  05:42 PM
                             [**2132-8-26**]  09:34 PM
                             [**2132-8-26**]  09:56 PM
                             [**2132-8-26**]  10:01 PM
                             [**2132-8-27**]  01:00 AM
                             [**2132-8-27**]  01:25 AM
                             [**2132-8-27**]  05:20 AM
                             [**2132-8-27**]  05:39 AM
   WBC
   5.6
   4.9
   4.5
   3.9
   Hct
   29.4
   27.0
   25.9
   27
   26
   25.2
   Plt
   30
   50
   34
   26
   Cr
   3.1
   3.5
   3.8
   3.8
   3.3
   TropT
   0.05
   0.07
   TCO2
   17
   12
   16
   15
   Glucose
   [**Telephone/Fax (3) 2483**]51
   139
   Other labs: PT / PTT / INR:25.4/57.2/2.5, CK / CKMB /
   Troponin-T:83/5/0.07, ALT / AST:100/214, Alk Phos / T Bili:62/7.1,
   Fibrinogen:102 mg/dL, Lactic Acid:3.7 mmol/L, Albumin:4.0 g/dL, LDH:392
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Shock. Appears to be cardiogenic with ECHOs showing decreased
   LV and RV function, 3+TR and 3+MR and an EF at 25% that is likely an
   overestimate in the context of the TR and MR. Mixed picture yesterday
   with high CVPs and ECHO interpreted as clear evidence of R-sided volume
   overload, though the CVPs in the context of TR might be overestimates.
   However, the CVPs and the venous pCO2 and arterial pCO2 difference
   decrased while the pt was on dobutamine, suggesting that positive
   inotrpy was able to increase cardiac output. However, given her
   apparent arrythmogenic state likely [**12-22**] to RV failure, and the findings
   on ECHO, she appears to have a very poor prognosis and the use of
   further invasive procedures needs to be discussed with her family.
   2)       Acute renal failure. Appears to be [**12-22**] to renal hypoperfusion
   [**12-22**] cardiogenic shock. Given severe liver disease hepato renal syndrome
   may be contributing, but in the context of clear heart failure,
   treatment w/ octreotide and midodrine is not indicated. Cr actually
   improved slightly last night from 3.8 down to 3.3.
   -          Continue to trend Cr
   -          Renal following, appreciate recs
   -          Currently attempting to maximize cardiac output in order to
   improve renal perfusion.
   3)       Respiratory distress: Pt was intubated during a code for
   airway protection in the setting of clear increased work of breathing
   and unstable hemodynamics. Prior to intubation the pt had demonstrated
   significant use of accessory muscles for breathing and fluid overload
   on CXR, and elective intubation had been discussed, but deferred as she
   continued to sat in the 95-100% on RA. Currently, she remains intubated
   for the reasons above.
   4)       Cirrhosis and Altered mental status: unclear etiology of her
   altered mental status. Likely a multifactorial worsening of her
   baseline hepatic encephalopathy, possibly [**12-22**] to a LLL PNA, UTI, or
   hypoperfusion. Head CT negative., though final read has not been
   posted.
    -  Continue lactulose, rifaximin
    -  Treat PNA and UTI
           -  F/u on Hepatology recs
           - F/u Head CT final read.
   5)       Cx w/ gram positive cocci ~1000/ml. Uncommon pathogen of
   urine. Well covered by Vanc/Zosyn/Azithro.
   6)       Hypernatremia. Was likely [**12-22**] to overall intravascular
   hypovolemia. Will treat w/ free water flushes at n250cc q4 hours w/
   TFs.
   7)       Coagulopathy: INR at 2.5 this am, after 4 units of FFP
   yesterday to reverse an INR of 4.4. Etiology of coagulopathy, likely
   [**12-22**] to liver chirrhosis, but could also represent additional process of
   DIC or TTP/HUS .Hematology c/s recs appreciated, suggest that unlikely
   to be TPP/HUS as has no FDPs and no schistocytes on smear, likely [**12-22**]
   liver and renal failure.  Pt has had hx of previous thrombocytopenia
   and pancytopenia. Labs today show some increase in FDPs to 10-40 but
   also increased fibrinogen.
   -          Vit K PO x 3 days completed,
   -          Hematology continues to follow will review a second smear,
   appreciate recs
   -          Will transfuse platelets if fall below 20 or bleeds acutely.
   1)       Access: PIV x2 20g
   2)       Prophylaxis:  Pneumoboots,  bowel regimine as needed,
   3)       FEN: NGT in place and TFs running w/ free water flushes 250q 4
   for hypernatremia.
   4)       CODE: full, needs to be confirmed w/ family today given poor
   prognosis.
   5)       DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-23**] 01:21 PM
   20 Gauge - [**2132-8-24**] 11:32 AM
   PICC Line - [**2132-8-25**] 08:00 AM
   Multi Lumen - [**2132-8-26**] 06:19 PM
   Dialysis Catheter - [**2132-8-26**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-08-27 08:38:00 Physician Attending Progress Note
Chief Complaint: shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2132-8-26**] 08:28 AM
 INVASIVE VENTILATION - START [**2132-8-26**] 11:10 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2132-8-26**] 11:15 AM
   hr > 150 with b/p @ 66 systolic, cardioverted with synch 100 joules,
   amiodarone bolus 150 followed by drip at 0.5
 TRANSTHORACIC ECHO - At [**2132-8-26**] 11:53 AM
 MULTI LUMEN - START [**2132-8-26**] 06:19 PM
 DIALYSIS CATHETER - START [**2132-8-26**] 07:19 PM
 EKG - At [**2132-8-27**] 04:15 AM
   Afib 120's
 CARDIOVERSION/DEFIBRILLATION - At [**2132-8-27**] 05:16 AM
   Cardioverted with 100 J
   Echo: worsening RV overload,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-8-24**] 10:30 AM
   Azithromycin - [**2132-8-24**] 03:46 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-27**] 08:06 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2132-8-26**] 11:15 AM
   Midazolam (Versed) - [**2132-8-26**] 04:18 PM
   Fentanyl - [**2132-8-26**] 06:13 PM
   Other medications:
   MVI
   Folate
   Rifaximin
   Lactulose
   SSRI
   Neo-
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-27**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 59 (0 - 154) bpm
   BP: 105/48(66) {73/39(52) - 113/63(80)} mmHg
   RR: 13 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
   CVP: 19 (8 - 30)mmHg
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                  2,650 mL
                                                                  2,283 mL
   PO:
   TF:
                                                                     10 mL
   IVF:
                                                                    403 mL
                                                                  1,372 mL
   Blood products:
                                                                  1,467 mL
   Total out:
                                                                  1,696 mL
                                                                    188 mL
   Urine:
                                                                    696 mL
                                                                     23 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    954 mL
                                                                  2,095 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.34/27/181/15/-9
   Ve: 7 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils 2mm and min reactive
   CV: RR
   Chest: fair air movement
   ABd: soft, +BS
   Ext: bilat upper ext edema
   Neuro: deeply sedated not responding to pain
   Labs / Radiology
   8.2 g/dL
   27 K/uL
   139 mg/dL
   3.3 mg/dL
   15 mEq/L
   3.6 mEq/L
   44 mg/dL
   115 mEq/L
   147 mEq/L
   24.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2132-8-26**]  11:20 AM
                             [**2132-8-26**]  05:39 PM
                             [**2132-8-26**]  05:42 PM
                             [**2132-8-26**]  09:34 PM
                             [**2132-8-26**]  09:56 PM
                             [**2132-8-26**]  10:01 PM
                             [**2132-8-27**]  01:00 AM
                             [**2132-8-27**]  01:25 AM
                             [**2132-8-27**]  05:20 AM
                             [**2132-8-27**]  05:39 AM
   WBC
   5.6
   4.9
   4.5
   3.9
   4.0
   Hct
   29.4
   27.0
   25.9
   27
   26
   25.2
   24.7
   Plt
   30
   50
   34
   26
   27
   Cr
   3.1
   3.5
   3.8
   3.8
   3.3
   TropT
   0.05
   0.07
   TCO2
   17
   12
   16
   15
   Glucose
   [**Telephone/Fax (3) 2483**]51
   139
   Other labs: PT / PTT / INR:25.4/57.2/2.5, CK / CKMB /
   Troponin-T:83/5/0.07, ALT / AST:100/214, Alk Phos / T Bili:62/7.1,
   Fibrinogen:102 mg/dL, Lactic Acid:3.7 mmol/L, Albumin:4.0 g/dL, LDH:392
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   68-year-old woman with shock in setting of profound RV and LV
   dysfunction, now in and out of SVT and anuric,
   1.       Biventricular Heart Failure: At this point she is dilated
   bivent CHF, and efforts to unlad her dilated right heart with CVVH have
   been complicated by SVT and Dobutamine to try to improve forward flow
   led to SVT. Options would be Neo/Dobutmaine, and AMIo on CVVH as a
   trial. However with her multisystem organ failure we need to clarify
   goals of care with family.
   2.       SVT: recurrent this AM with atrial tach and likely Afib- Amio
   loaded, shocked back in NSR
   3.       ARF: CVVH as above was planned but cannot tolerate from
   hemodyanmics
   4.       Encephalopathy : Likely hepatic + toxic-metabolic.
   5.       Anemia: Appreciate hematology
s help, not likely TTP but poor
   liver fx and cardiac failure
   6.       Coagulopathy
 leart and liver failure and no nutrition likely
   explanation
   Other issues as per ICU team note.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-8-23**] 01:21 PM
   20 Gauge - [**2132-8-24**] 11:32 AM
   PICC Line - [**2132-8-25**] 08:00 AM
   Multi Lumen - [**2132-8-26**] 06:19 PM
   Dialysis Catheter - [**2132-8-26**] 07:19 PM
   Prophylaxis:
   DVT: boots (intrinsically coagulopathic)
   Stress ulcer: ppi
   VAP: HOB chlorhex
   Communication:  need family meeting today
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   MICU Attending Addendum
   Has a long meeting with pts husband, 2 sons, and brother. We reviewed
   her liver, kidney and heart failure and they felt that in light of her
   extremely poor prognosis we would move to CMO. Extubated and neo off.
   Discussed with family that this could evolve over days as she is not
   acutely hemodynamically unstable or in need of ventilatory support such
   that dehydration and renal failure may be ultimate cause of her
   decline.

2132-08-28 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2132-8-27**] 02:12 PM
   Pt made CMO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-8-27**] 08:06 AM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-28**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 164 (54 - 177) bpm
   BP: 74/44(54) {74/40(54) - 107/54(68)} mmHg
   RR: 9 (5 - 17) insp/min
   SpO2: 84%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 66 Inch
    CVP: 12 (12 - 19)mmHg
   Total In:
                                                                  3,795 mL
                                                                     45 mL
   PO:
   TF:
                                                                  1,084 mL
   IVF:
                                                                  1,561 mL
                                                                     45 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                      5 mL
   Urine:
                                                                     30 mL
                                                                      5 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  2,800 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 84%
   ABG: 7.34/27/181//-9
   Ve: 6.8 L/min
   PaO2 / FiO2: 453
   Physical Examination
   Gen: Somnolent, but arouseable.
   HEENT: dry MM, PERRL,
   Resp: Lungs clearer than yesterday. No rales, no wheezing, no rhonchi.
   Milder accessory muscle use and milder retractions visible at
   clavicles.
   CV: RRR nl s1 s2.
   Abd: Soft, ND, not obviously tender, no gross ascites
   EXT: Radial pulses 1+, DP 1+ no pedal edema, some increased upper
   extremity edema, L > R
   Skin:  Dry, turgor friable appearing, but no breakdown, arms and face
   appear more full ? mild edema, but is non-pitting.
   Neurologic: Minimally responsive to voice and touch, PERRL, dolls eye
   reflex intact, downward toes,  no asterixis, 2+ patellar and biceps
   reflexes bilaterally. No clonus at ankles.
   Labs / Radiology
   27 K/uL
   8.2 g/dL
   139 mg/dL
   3.3 mg/dL
   15 mEq/L
   3.6 mEq/L
   44 mg/dL
   115 mEq/L
   147 mEq/L
   24.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2132-8-26**]  11:20 AM
                             [**2132-8-26**]  05:39 PM
                             [**2132-8-26**]  05:42 PM
                             [**2132-8-26**]  09:34 PM
                             [**2132-8-26**]  09:56 PM
                             [**2132-8-26**]  10:01 PM
                             [**2132-8-27**]  01:00 AM
                             [**2132-8-27**]  01:25 AM
                             [**2132-8-27**]  05:20 AM
                             [**2132-8-27**]  05:39 AM
   WBC
   5.6
   4.9
   4.5
   3.9
   4.0
   Hct
   29.4
   27.0
   25.9
   27
   26
   25.2
   24.7
   Plt
   30
   50
   34
   26
   27
   Cr
   3.1
   3.5
   3.8
   3.8
   3.3
   TropT
   0.05
   0.07
   TCO2
   17
   12
   16
   15
   Glucose
   [**Telephone/Fax (3) 2483**]51
   139
   Other labs: PT / PTT / INR:25.4/57.2/2.5, CK / CKMB /
   Troponin-T:83/5/0.07, ALT / AST:100/214, Alk Phos / T Bili:62/7.1,
   Fibrinogen:102 mg/dL, Lactic Acid:3.7 mmol/L, Albumin:4.0 g/dL, LDH:392
   IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   Pt is a 66 y.o female with PMH HCV cirrhosis, HCC, s/p TIPS who
   presents with chest pain, hypotension and acute renal failure.
   1)       Shock. Appears to be cardiogenic with ECHOs showing decreased
   LV and RV function, 3+TR and 3+MR and an EF at 25% that is likely an
   overestimate in the context of the TR and MR. Mixed picture yesterday
   with high CVPs and ECHO interpreted as clear evidence of R-sided volume
   overload, though the CVPs in the context of TR might be overestimates.
   However, the CVPs and the venous pCO2 and arterial pCO2 difference
   decrased while the pt was on dobutamine, suggesting that positive
   inotrpy was able to increase cardiac output. However, given her
   apparent arrythmogenic state likely [**12-22**] to RV failure, and the findings
   on ECHO, she appears to have a very poor prognosis and the use of
   further invasive procedures needs to be discussed with her family.
   2)       Acute renal failure. Appears to be [**12-22**] to renal hypoperfusion
   [**12-22**] cardiogenic shock. Given severe liver disease hepato renal syndrome
   may be contributing, but in the context of clear heart failure,
   treatment w/ octreotide and midodrine is not indicated. Cr actually
   improved slightly last night from 3.8 down to 3.3.
   -          Continue to trend Cr
   -          Renal following, appreciate recs
   -          Currently attempting to maximize cardiac output in order to
   improve renal perfusion.
   3)       Respiratory distress: Pt was intubated during a code for
   airway protection in the setting of clear increased work of breathing
   and unstable hemodynamics. Prior to intubation the pt had demonstrated
   significant use of accessory muscles for breathing and fluid overload
   on CXR, and elective intubation had been discussed, but deferred as she
   continued to sat in the 95-100% on RA. Currently, she remains intubated
   for the reasons above.
   4)       Cirrhosis and Altered mental status: unclear etiology of her
   altered mental status. Likely a multifactorial worsening of her
   baseline hepatic encephalopathy, possibly [**12-22**] to a LLL PNA, UTI, or
   hypoperfusion. Head CT negative., though final read has not been
   posted.
    -  Continue lactulose, rifaximin
    -  Treat PNA and UTI
           -  F/u on Hepatology recs
           - F/u Head CT final read.
   5)       Cx w/ gram positive cocci ~1000/ml. Uncommon pathogen of
   urine. Well covered by Vanc/Zosyn/Azithro.
   6)       Hypernatremia. Was likely [**12-22**] to overall intravascular
   hypovolemia. Will treat w/ free water flushes at n250cc q4 hours w/
   TFs.
   7)       Coagulopathy: INR at 2.5 this am, after 4 units of FFP
   yesterday to reverse an INR of 4.4. Etiology of coagulopathy, likely
   [**12-22**] to liver chirrhosis, but could also represent additional process of
   DIC or TTP/HUS .Hematology c/s recs appreciated, suggest that unlikely
   to be TPP/HUS as has no FDPs and no schistocytes on smear, likely [**12-22**]
   liver and renal failure.  Pt has had hx of previous thrombocytopenia
   and pancytopenia. Labs today show some increase in FDPs to 10-40 but
   also increased fibrinogen.
   -          Vit K PO x 3 days completed,
   -          Hematology continues to follow will review a second smear,
   appreciate recs
   -          Will transfuse platelets if fall below 20 or bleeds acutely.
   1)       Access: PIV x2 20g
   2)       Prophylaxis:  Pneumoboots,  bowel regimine as needed,
   3)       FEN: NGT in place and TFs running w/ free water flushes 250q 4
   for hypernatremia.
   4)       CODE: full, needs to be confirmed w/ family today given poor
   prognosis.
   5)       DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2132-8-25**] 08:00 AM
   Multi Lumen - [**2132-8-26**] 06:19 PM
   Dialysis Catheter - [**2132-8-26**] 07:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: